US06927228B2
(b) Diethyl 2-(3′-{[methyl-(1-phenylmethanoyl)-amino]methyl}biphenyl-4-ylmethyl)malonate
700 mg (1.5 mmol) of diethyl 2-(3′-{[methyl-(1-phenylmethanoyl)amino]methyl}biphenyl-4-ylmethylene)malonate, 7 ml of THF and 1 ml of methanol are introduced into a three-necked flask under a stream of nitrogen. The reaction medium is degassed, 80 mg of palladium-on-charcoal (5%) are introduced and the mixture is hydrogenated under atmospheric pressure at room temperature for 20 hours. The reaction medium is filtered through Celite and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (80/20). After evaporation of the solvents, 450 mg (63%) of the desired product are collected.

reactant | diethyl 2-(3′-{[methyl-(1-phenylmethanoyl)amino]methyl}biphenyl-4-ylmethylene)malonate | 1.5 mmol, 700 mg | CN(C(=O)C1=CC=CC=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)C=C(C(=O)OCC)C(=O)OCC | C29H29NO5
reactant | THF | 7 ml | C1CCOC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | Diethyl 2-(3′-{[methyl-(1-phenylmethanoyl)-amino]methyl}biphenyl-4-ylmethyl)malonate | CN(C(=O)C1=CC=CC=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C(=O)OCC)C(=O)OCC | C29H31NO5
